US07557107B2
Step B: 4-{6-[(Bicyclopropyl-1-yloxycarbonylamino)-(3-methyl-3H-imidazol-4-yl)-methyl]-8-chloro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-yl}-piperazine-1-carboxylic acid cyclopentyl ester
4-{6-[Amino-(3-methyl-3H-imidazol-4-yl)-methyl]-8-chloro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-yl}-piperazine-1-carboxylic acid cyclopentyl ester (60 mg, 0.11 mmol) was dissolved in 5 ml of dichloromethane and 0.2 ml of triethyl amine. Carbonic acid bicyclopropyl-1-yl ester 2,5-dioxo-pyrrolidin-1-yl ester (45 mg, 0.19 mmol) was added and the reaction mixture stirred for 18 hours at ambient temperature under a dry nitrogen atmosphere. The reaction mixture was washed with brine and evaporated to a solid. The solid was chromatographed on silica gel using 5% methanol/dichloromethane as eluent to obtain 49 mg of title product.

reactant | 4-{6-[Amino-(3-methyl-3H-imidazol-4-yl)-methyl]-8-chloro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-yl}-piperazine-1-carboxylic acid cyclopentyl ester | 0.11 mmol, 60 mg | C1(CCCC1)OC(=O)N1CCN(CC1)C1C2=C(C(=CC=3C1=NC=CC3)C(C=3N(C=NC3)C)N)C=C(C=C2)Cl | C29H33ClN6O2
reactant | Carbonic acid bicyclopropyl-1-yl ester 2,5-dioxo-pyrrolidin-1-yl ester | 0.19 mmol, 45 mg | O=C1N(C(CC1)=O)OC(OC1(CC1)C1CC1)=O | C11H13NO5
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | triethyl amine | 0.2 ml | C(C)N(CC)CC | C6H15N
product | 4-{6-[(Bicyclopropyl-1-yloxycarbonylamino)-(3-methyl-3H-imidazol-4-yl)-methyl]-8-chloro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-yl}-piperazine-1-carboxylic acid cyclopentyl ester | 49 mg | C1(CCCC1)OC(=O)N1CCN(CC1)C1C2=C(C(=CC=3C1=NC=CC3)C(C=3N(C=NC3)C)NC(=O)OC3(CC3)C3CC3)C=C(C=C2)Cl | C36H41ClN6O4
